US07071337B2
([8-(tert-Butyl-dimethyl-silanyloxy)-quinolin-2-yl]-(4-methoxy-2-nitro-phenyl)-amine
Trifluoro-methanesulfonic acid 8-(tert-butyl-dimethyl-silanyloxy)-quinolin-2-yl ester B (9.81 g, 24.1 mmol) and 4-methoxy-2-nitroaniline (4.86 g, 28.9 mmol) were dissolved in 100 mL of dioxane under an atmosphere of dry N2. To this solution was added (11.0 g, 33.7 mmol) cesium carbonate (Cs2CO3), (900 mg, 1.45 mmol) racemic-2,2′-bis(diphenylposphino)-1,1′-binapthyl (BINAP) and tris(dibenzylideneacetone)dipalladium (0) (883 mg, 0.964 mmol) and the reaction mixture was heated to 100° C. and reacted at this temperature for 4 hours. The mixture was then cooled to ambient temperature, concentrated under vacuum, treated with DCM, filtered and concentrated under vacuum to give a red solid. The solid was chromatographed on flash silica gel eluting with hexanes/DCM (3:1) to give 7.25 g of C as a red solid.

reactant | Trifluoro-methanesulfonic acid 8-(tert-butyl-dimethyl-silanyloxy)-quinolin-2-yl ester | C(C)(C)(C)[Si](OC=1C=CC=C2C=CC(=NC12)OS(=O)(=O)C(F)(F)F)(C)C | C16H20F3NO4SSi
reactant | 4-methoxy-2-nitroaniline | 28.9 mmol, 4.86 g | COC1=CC(=C(N)C=C1)[N+](=O)[O-] | C7H8N2O3
reactant | cesium carbonate | 33.7 mmol, 11.0 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dioxane | 100 mL | O1CCOCC1 | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium | 0.964 mmol, 883 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | [8-(tert-Butyl-dimethyl-silanyloxy)-quinolin-2-yl]-(4-methoxy-2-nitro-phenyl)-amine | C(C)(C)(C)[Si](OC=1C=CC=C2C=CC(=NC12)NC1=C(C=C(C=C1)OC)[N+](=O)[O-])(C)C | C22H27N3O4Si
